US05206377
PREPARATION OF N-BENZYLOXYCARBONYLTRYPTAMINE
To a mixture of tryptamine 1.0 g (6.2 mmol) in a mixture of CHCl3 and H2O, was added 1.1 g (6.2 mmol) benzylchloroformate, followed by dropwise addition of sat. NaHCO3 solution to maintain alkaline conditions. The reaction was stirred for 2 hrs. The reaction was extracted with CHCl3 and the organic layer was concentrated to dryness giving a dark yellow oil. The oil was crystallized from ethanol/water to give an off-white crystalline product.

reactant | tryptamine | 6.2 mmol, 1.0 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | benzylchloroformate | 6.2 mmol, 1.1 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | O | H2O
product | N-BENZYLOXYCARBONYLTRYPTAMINE | C(C1=CC=CC=C1)OC(=O)NCCC1=CNC2=CC=CC=C12 | C18H18N2O2
